US07579488B2
Step C. 6-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzofuran-2-carboxylic acid ethyl ester
6-(1-Ethyl-propenyl)-benzofuran-2-carboxylic acid ethyl ester (2.01 g, 7.78 mmol) and o-cresol (1.26 g, 11.7 mmol) and BF3—OEt2 (1.10 g, 7.78 mmol) in CH2Cl2 are reacted analogous to Example 30-C to give the title compound (1.58 g, 55%).

reactant | 6-(1-Ethyl-propenyl)-benzofuran-2-carboxylic acid ethyl ester | 7.78 mmol, 2.01 g | C(C)OC(=O)C=1OC2=C(C1)C=CC(=C2)C(=CC)CC | C16H18O3
reactant | o-cresol | 11.7 mmol, 1.26 g | C1(=CC=CC=C1O)C | C7H8O
reactant | BF3 OEt2 | 7.78 mmol, 1.10 g | B(F)(F)F.O(CC)CC
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-[1-Ethyl-1-(4-hydroxy-3-methyl-phenyl)-propyl]-benzofuran-2-carboxylic acid ethyl ester | 1.58 g, 55% | C(C)OC(=O)C=1OC2=C(C1)C=CC(=C2)C(CC)(C2=CC(=C(C=C2)O)C)CC | C23H26O4
